US05705499
2-Chloro-5,11-dihydro-11-ethyl-8-[2-(3-iodophenyl)ethyl]-5methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
In a manner analogous to the procedure described for Example 23, 8-[2-(3-aminophenyl)ethyl]-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.15 g, 0.37 mmol) was diazotized and treated with sodium iodide to provide 9 mg of the pure product, m.p. 143°-145° C. (petroleum ether).

reactant | 8-[2-(3-aminophenyl)ethyl]-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.37 mmol, 0.15 g | NC=1C=C(C=CC1)CCC1=CC2=C(N(C3=C(N(C2=O)C)C=CC(=N3)Cl)CC)N=C1 | C22H22ClN5O
reactant | sodium iodide | [I-].[Na+]
product | 2-Chloro-5,11-dihydro-11-ethyl-8-[2-(3-iodophenyl)ethyl]-5methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 9 mg | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCC3=CC(=CC=C3)I)=O)C | C22H20ClIN4O
